US06723727B1
5e) N-Benzyloxycarbonyl-L-homoserine
6 g (50.4 mmol) of L-homoserine were largely dissolved in 50 ml of DMF and treated at 0° C. in portions with 12.56 9 (50.4 mmol) of N-(benzyloxycarbonyloxy)succinimide. The mixture was stirred at 0° C. for 1 h, then at RT for 48 h. The solvent was distilled off and the residue was partitioned between EA and a saturated NaCl solution. The organic phase was washed with saturated NaCl solution, with 5% strength citric acid and again with saturated NaCl solution, dried, filtered and concentrated. The crystalline residue was stirred in ether, filtered off with suction, and washed with ether and pentane. Yield: 9.55 g (75%).

reactant | L-homoserine | 50.4 mmol, 6 g | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | N-(benzyloxycarbonyloxy)succinimide | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-Benzyloxycarbonyl-L-homoserine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCO)C(=O)O | C12H15NO5
